US08809372B2
A solution of 5-(4-fluorophenyl)thiazole (0.5 g, 2.78 mmol) and THF (40 mL) was cooled to −78° C., 1.6 M n-BuLi in hexanes (0.7 mL, 8.36 mmol) was slowly added, the solution was stirred for 20 min and DMF in THF (20 mL) was added. The reaction mixture was stirred at −78° C. for 2 h, quenched with saturated ammonium chloride solution and diluted with ethyl acetate (150 mL). The organic layer was separated, washed with ammonium chloride (3×150 mL) and followed by brine solution (2×100 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to obtain crude product. The crude product was purified by column chromatography (100-200μ silica gel and 18% ethyl acetate in hexane) to obtain 5-(4-fluorophenyl)thiazole-2-carbaldehyde as off-white solid (0.4 g, 69% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.91 (s, 1H), 8.63 (s, 1H), 7.88-7.91 (m, 2H), 7.35 (t, 2H), LC-MS m/z calculated for [M+H]+ 208.02 found 208.1.

reactant | 5-(4-fluorophenyl)thiazole | 2.78 mmol, 0.5 g | FC1=CC=C(C=C1)C1=CN=CS1 | C9H6FNS
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-(4-fluorophenyl)thiazole-2-carbaldehyde | 0.4 g, 69% yield | FC1=CC=C(C=C1)C1=CN=C(S1)C=O | C10H6FNOS
